Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left pathologic midshaft humerus fracture
 
Major Surgical or Invasive Procedure:
Left intramedullary nail

 
History of Present Illness:
___ male with recurrence of multiple myeloma (s/p transplant
in ___ presents with a Left midshaft humerus fracture s/p 
fall at
physician's office after being given 1mg of Ativan.

The patient had undergone transplant for his multiple myeloma in
___ and since then was being monitored for
maintenance. In ___ he underwent routine skeletal survey
which showed a destructive expansile lesion of the left lower
humeral shaft. PET demonstrated cortical irregularities with 
mild
FDG activity in the left mid humeral diaphysis. MRI of the left
humerus demonstrated a 3.4 cm expansile lesion in the midshaft.
This lesion was biopsied and pathology was consistent with
myeloma. 

He came to clinic ___ for a bone marrow biopsy to assess
the extent of the multiple myeloma. The biopsy confirmed myeloma
in his bone marrow. While getting the biopsy the patient was
given 1mg of Ativan and while the care team was not in the room,
the patient maneuvered and fell from the exam room bed. He notes
that he hit his head and fell on the left side of his body. He
immediately felt pain in his left arm along with feeling
nauseated. He was given oxygen which slightly alleviated his
symptoms. He was then transported to the BI ED.

 
Past Medical History:
COLON CANCER                                                    
GASTROESOPHAGEAL REFLUX                                         
GLAUCOMA                                                        
GOUT                                                            
HYPOTHYROIDISM                                                  
LEFT RENAL CYST                                                 
EPIDIDYMITIS                                                    
HNPCC                                                           
DYSTHYMIA                                                       
SLEEP APNEA                                                     
RASH                                                            
MULTIPLE MYELOMA                                             
SQUAMOUS CELL CARCINOMA                                         

 
Social History:
Marital status:     Married                                     
Children:           Yes: two sons                               
Lives with:         ___                            
Work: ___
Sexual activity:    Present                                     
Sexual orientation: Female                                      
Contraception:      None                                        
Tobacco use:        Former smoker                               
     Year Quit:     ___                                        
     Years Since    ___                                          
     Quit:                                                      
Alcohol use:        Present                                     
drinks per week:    ___                                         
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           Activities: walking                         
Diet:               regular                                     
Seat belt/vehicle   Always                                      
restraint use:                                                  
Bike helmet use:    N/A                                         

Comments:           Caffeine: coffee ___ cup/day,               

 
Family History:
He has two sons that are healthy. He has two brothers that are 
alive and one sister who died of colon cancer. Of note, their 
mother had colon cancer and uterine cancer. There is also 
history of leukemia in a maternal grandmother and a history of 
colon cancer in paternal grandmother. His sons (___ and ___ years 
old) were tested and they both have a Lynch syndrome.  

 
Physical Exam:
PHYSICAL EXAMINATION:

Vitals: 
___ 0307 Temp: 98.4 PO BP: 98/61 L Lying HR: 93 RR: 20 O2
sat: 93% O2 delivery: Ra 

General: Well appearing. 
Resp: Normal WOB, symmetric chest rise
CV: Extremities WWP

MSK:
Left upper extremity
-Dressings: Shoulder incision with small s/s drainage. LUE
covered with ACE band, CDI. 
- Soft, non-tender arm and forearm
- Fires EPL/FPL/DIO (Index)
-  Intact sensation in axillary, radial, median and
ulnar distribution. 
- 2+ radial pulse
 
Pertinent Results:
___ 06:23AM BLOOD WBC-2.5* RBC-3.22* Hgb-10.1* Hct-30.6* 
MCV-95 MCH-31.4 MCHC-33.0 RDW-15.5 RDWSD-52.9* Plt ___

___ 06:23AM BLOOD Glucose-97 UreaN-12 Creat-1.0 Na-140 
K-4.0 Cl-100 HCO3-27 AnGap-13

___ 06:23AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.6
 
Brief Hospital Course:
Patient arrived to clinic on ___ for a bone marrow biopsy 
to assess the extent of his multiple myeloma.  During the 
process of obtaining the biopsy the patient was given 1 mg of 
Ativan and during the time that staff was not in the room he 
sustained a fall.  He notes that he hit his head and fell onto 
his left side. He
immediately felt pain in his left arm along with feeling
nauseated. He was given oxygen which slightly alleviated his
symptoms. He was then transported to the ___ ED.
Upon arrival he was found to have a left midshaft humerus 
fracture.  He was admitted and underwent a intramedullary nail 
for his pathological humerus fracture with Dr. ___.  There 
were no complications in the procedure and he was sent to the 
PACU following surgery. He received a nerve block following his 
procedure for pain.  His postoperative course was unremarkable 
and he progressed as expected. he was seen by physical therapy 
postoperative day 1 and was deemed fit to go home.  He was 
provided instructions regarding follow-up appointment pain 
management and danger signs.  He was also provided with 
prescriptions for pain medication and instructions on how to 
taper medications.
 
Medications on Admission:
___ mg tablet (oral) 
1 tablet(s) by mouth once a day 

esomeprazole magnesium
40 mg capsule,delayed ___ (oral) 
180 Capsule  
1 capsule(s) by mouth once a day 

furosemide
20 mg tablet (oral) 
1 tablet(s) by mouth once a day 

latanoprost
0.005 % drops (ophthalmic (eye)) 
___ Milliliter 
1 drop at bedtime 

levothyroxine [Synthroid]
150 mcg tablet (oral) 
TAKE 1 TABLET DAILY 

ondansetron HCl
4 mg tablet (oral) 
1 tablet(s) by mouth every eight (8) hours as needed for for 
nausea 

sertraline
50 mg tablet (oral) 
TAKE 1 TABLET DAILY 

simvastatin
20 mg tablet (oral) 
1 tablet(s) by mouth daily 
 
tramadol
50 mg tablet (oral) 
___ tablet(s) by mouth every four (4) hours as needed for 
moderate to severe 

aspirin
325 mg tablet,delayed release (___) (oral) 
  
multivitamin [Daily Multiple]
1 tablet(s) by mouth once a day 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO 5X/DAY 
Do not take more than 4grams in 24 hours.   
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*14 Capsule Refills:*0 
4.  Enoxaparin Sodium 40 mg SC QPM 
RX *enoxaparin 40 mg/0.4 mL 1 Syringe SQ once a day Disp #*28 
Syringe Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
6.  Allopurinol ___ mg PO DAILY  
7.  Aspirin 325 mg PO DAILY  
8.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
9.  Levothyroxine Sodium 150 mcg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Omeprazole 40 mg PO DAILY  
12.  Sertraline 50 mg PO DAILY  
13.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left humeral pathologic fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Weight bearing as tolerated

MEDICATIONS:
  1)  Take Tylenol ___ every 6 hours around the clock. This is 
an over the counter medication.
  2)  Add oxycodone 5 to 10 mg as needed for increased pain. Aim 
to wean off this medication in 1 week or sooner.  This is an 
example on how to wean down:
Take 1 tablet every 3 hours as needed x 1 day,
then 1 tablet every 4 hours as needed x 1 day,
then 1 tablet every 6 hours as needed x 1 day,
then 1 tablet every 8 hours as needed x 2 days, 
then 1 tablet every 12 hours as needed x 1 day,
then 1 tablet every before bedtime as needed x 1 day.  
Then continue with Tylenol for pain.
  3)  Do not stop the Tylenol until you are off of the narcotic 
medication.
  4)  Per state regulations, we are limited in the amount of 
narcotics we can prescribe. If you require more, you must 
contact the office to set up an appointment because we cannot 
refill this type of pain medication over the phone. 
  5)  Narcotic pain relievers can cause constipation, so you 
should drink eight 8oz glasses of water daily and continue 
following the bowel regimen as stated on your medication 
prescription list. These meds (senna, colace, miralax) are over 
the counter and may be obtained at any pharmacy.
  6)  Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
  7)  Please take all medications as prescribed by your 
physicians at discharge.
  8)  Continue all home medications unless specifically 
instructed to stop by your surgeon.
      
ANTICOAGULATION:
- Please take Lovenox ___aily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Incision may be left open to air unless actively draining. If 
draining, you may apply a gauze dressing secured with paper 
tape.
- If you have a splint in place, splint must be left on until 
follow up appointment unless otherwise instructed. Do NOT get 
splint wet.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

 
Followup Instructions:
___